US06350749B1
To a solution of 2,5-dichlorothiophene (100.0 g) and dichloromethylmethylether (165.3 g) in dichloromethane (800 ml) was added dropwise a solution of titanium tetrachloride (272.7 g) in dichloromethane (160 ml) at −10 to −15° C. taking 50 minutes, and at the same temperature, the mixture was stirred for 30 minutes. The reaction solution was poured into ice, and the organic layer was washed with water, sodium hydrogen carbonate solution, water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 2,5-dichloro-3-formylthiophene (115.0 g) as oil. To a mixture of acetone (1000 ml), sodium hydroxide (28.6 g) and water (1200 ml) was added at 0° C. a solution of 2,5-dichloro-3-formylthiophene (58.6 g) in acetone (200 ml) for 1.5 hours, and the mixture was stirred at the same temperature for 1 hour. Under reduced pressure, acetone was evaporated, and the crystals were filtered, washed with water and dried to give 4-(2,5-dichlorothiophen-3-yl)-3-buten-2-one (136.6 g). To a solution of 20% sodium ethoxide in ethanol (211 g) was added diethyl malonate (99.3 g) at room temperature, and then 4-(2,5-dichlorothiophen-3-yl)-3-buten-2-one (136.6 g) little by little. The mixture was stirred at room temperature for 30 minutes, heated for 2 hours while stirring, and cooled. The solvent was evaporated, and to the residue was added water. The aqueous layer was washed with ethyl acetate and concentrated, to which was added 2M sodium hydroxide (340 ml). The mixture was stirred at 100° C. for 2 hours and cooled. To the mixture was added 2.5M sulfuric acid (340 ml) for 15 minutes, and the mixture was stirred at 100° C. for 1.5 hours. The mixture was cooled, and precipitated crystals were filtered and washed with ethyl acetate-isopropylether (1:4) and isopropylether to give 5-(2,5-dichlorothiophen-3-yl)cyclohexane-1,3-dione (78.9 g) as colorless crystals.

reactant | sodium hydroxide | 28.6 g | [OH-].[Na+]
reactant | water | 1200 ml | O | H2O
reactant | 2,5-dichloro-3-formylthiophene | 58.6 g | ClC=1SC(=CC1C=O)Cl | C5H2Cl2OS
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | acetone | 1000 ml | CC(=O)C | C3H6O
product | 4-(2,5-dichlorothiophen-3-yl)-3-buten-2-one | 136.6 g | ClC=1SC(=CC1C=CC(C)=O)Cl | C8H6Cl2OS
